US06143779
Synthesis of 6-isopropyloxy-2-piperonylidene-3(2H)-benzofuranone
To a solution of 6-hydroxy-2-piperonylidene 3(2H)-benzofuranone 0.5 g, potassium carbonate 0.58 g and dimethylformamide 5 ml, 2-bromopropane 0.306 g was added. After the mixture was refluxed for 2.5 hours, water 50 ml was added. The resulting compound was extracted with ethyl acetate 50 ml twice. The ethyl acetate solution was washed with a saturated sodium chloride solution 50 ml twice, dehydrated with anhydrous magnesium sulfate and concentrated under reduced pressure. The crude extract was fractionated by silica gel column chromatography (silica gel: 50 g, eluted with solvent 500 ml of hexane:ethyl acetate=1:1) and the fraction was concentrated to dryness at a temperature of 40° C. under reduced pressure to obtain crystals. The crystals were dissolved in ethyl acetate 5 ml and hexane 10 ml, and the solution was allowed to stand at room temperature for two hours. The precipitated crystals were filtered and dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 519.6 mg.

reactant | 6-hydroxy-2-piperonylidene 3(2H)-benzofuranone | 0.5 g | OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C16H10O5
reactant | potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 2-bromopropane | 0.306 g | BrC(C)C | C3H7Br
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
product | 6-isopropyloxy-2-piperonylidene-3(2H)-benzofuranone | 519.6 mg | C(C)(C)OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C19H16O5
